US07947692B2
A magnetically stirred mixture of 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (5-methanesulfonyl-7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (250 mg, 0.47 mmol) in THF (10 mL) and water (5 mL) was treated with a 2N aqueous KOH solution (0.5 mL, 0.94 mmol). The reaction mixture was stirred at 75° C. for 4 h. The reaction was then cooled to room temperature and poured into water and extracted with methylene chloride. The organics were washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo to afford 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (5-hydroxy-7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (32 mg, 15%) as a white solid. LRMS for C19H18F3N5O4S2 (M+H)+ at m/z=469. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (5-methanesulfonyl-7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 0.47 mmol, 250 mg | CS(=O)(=O)C=1N=C(C2=C(N1)SC(=N2)NC(=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O)OC | C20H20F3N5O5S2
reactant | KOH | 0.94 mmol, 2N, 0.5 mL | [OH-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (5-hydroxy-7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 32 mg, 15% | OC=1N=C(C2=C(N1)SC(=N2)NC(=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O)OC | C19H18F3N5O4S
